US04486589
2-(Bromomethyl)benzenesulfonamide
A solution of ammonia (1.0 ml) in tetrahydrofuran (50 ml) at -78° was contacted dropwise with a solution of a 60/40 mixture of 2-(bromomethyl)benzenesulfonyl chloride/4-(bromomethyl)benzenesulfonyl chloride (4.52 g) in tetrahydrofuran (20 ml). The stirred mixture was allowed to warm to 0° and volatiles were removed in vacuo. The residue was contacted with water (50 ml) and extracted three times with ethyl acetate. Combined organic portions were washed with brine, dried, and evaporated to give 4.00 g of white solid. 1H nmr δ(CD3)2COTMS 8.15-7.20 (m), 6.7-6.3 (m, NH), 4.95 (q, area 21), 4.55 (s, area 18), consistent with a ca. 60/40 mixture of 2-(bromomethyl)-/4-(bromomethyl)-benzenesulfonamides. The sample was fractionally recrystallized from chloroform, but without significant change in isomeric content.

reactant | ammonia | 1.0 ml | N | H3N
reactant | 2-(bromomethyl)benzenesulfonyl chloride 4-(bromomethyl)benzenesulfonyl chloride | 4.52 g | BrCC1=C(C=CC=C1)S(=O)(=O)Cl.BrCC1=CC=C(C=C1)S(=O)(=O)Cl | 2C7H6BrClO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(Bromomethyl)benzenesulfonamide | 4.00 g | BrCC1=C(C=CC=C1)S(=O)(=O)N | C7H8BrNO2S
